US07462620B2
t-Butyl 2-(5-ethyl-2-(2-(4-fluorophenyl)ethyl)-4-oxo-4H-pyrimidin-1-yl)-acetate
5-Ethyl-2-[2-(4-fluorophenyl)ethyl]-1H-pyrimidin-4-one (B40) (955 mgs) in dichloromethane (20was treated with t-butyl iodoacetate, (2.82 g) and diisopropylethylamine (2.03 mls) at room temperature for 3 days. The solution was washed with saturated sodium bicarbonate, brine and dried over anhydrous magnesium sulphate. The solution was concentrated to give a semi-solid which was triturated with ether:dichloromethane, 5:1, giving the title compound as a white solid, (1.101 g, 79%), 1H-NMR (CDCl3) δ 1.16 (3H, t), 1.47 (9H, s), 2.47 (2H, q), 2.74 (2H, t), 3.14 (2H, t), 4.27 (2H, s), 6.90 (1H, s), 6.98 (2H, m) and 7.17 (2H, m). (APCI+) Found (M+1)=361, C20H25FN3 requires 360.

reactant | 5-Ethyl-2-[2-(4-fluorophenyl)ethyl]-1H-pyrimidin-4-one | 955 mgs | C(C)C=1C(N=C(NC1)CCC1=CC=C(C=C1)F)=O | C14H15FN2O
reactant | t-butyl iodoacetate | 2.82 g | ICC(=O)OC(C)(C)C | C6H11IO2
reactant | diisopropylethylamine | 2.03 mls | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
product | t-Butyl 2-(5-ethyl-2-(2-(4-fluorophenyl)ethyl)-4-oxo-4H-pyrimidin-1-yl)-acetate | 1.101 g, 79% | C(C)C=1C(N=C(N(C1)CC(=O)OC(C)(C)C)CCC1=CC=C(C=C1)F)=O | C20H25FN2O3
